US09290451B2
e) 6-Bromomethyl-5-cyclopropyl-pyridine-2-carbonitrile
A solution of 5-cyclopropyl-6-hydroxymethyl-pyridine-2-carbonitrile (0.1 g, 0.6 mmol), CBr4 (0.8 g, 1.2 mmol), PPh3 (0.3 g, 1.2 mmol) in THF (10 mL) was stirred for 12 h at 40° C. The solvent was removed under reduced pressure and the crude product purified by flash column chromatography (silica gel, 3 g, eluting with 25% ethyl acetate in petroleum ether) to give the title compound (0.1 g, 74%) as yellow solid; MS (EI): m/e=236.9 [M+H]+.

reactant | 5-cyclopropyl-6-hydroxymethyl-pyridine-2-carbonitrile | 0.6 mmol, 0.1 g | C1(CC1)C=1C=CC(=NC1CO)C#N | C10H10N2O
reactant | CBr4 | 1.2 mmol, 0.8 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 1.2 mmol, 0.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-Bromomethyl-5-cyclopropyl-pyridine-2-carbonitrile | 0.1 g, 74% | BrCC1=C(C=CC(=N1)C#N)C1CC1 | C10H9BrN2
